Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[C:5]([O:6][H:18])[H:17]>>[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][H:18])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],11.6618989996308
[N:1]#[C:2][C:3]([C:4]([C:5]#[N:6])([H:9])[H:10])([H:7])[H:8]>>[N:1](=[C:2]1/[C:3]([H:7])([H:8])[C@:4]1([C:5]#[N:6])[H:9])\[H:10],93.2018325272436
[H:8][H:9].[N:1]1=[C:2]([C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[O:3]1>>[N:1]([C:2](=[O:3])[C:4]([C:5]([C:6]([O:7][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9],7.503907527842486
[C:1]([C:2]([C:3](=[C:4]([H:12])[H:14])[C:5]([H:15])([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[O:6]([H:13])[H:18]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[O:6][H:18])([H:10])[H:11])([H:7])([H:8])[H:9],43.0313855671666
[C:1]([C:2]([C@@:3]([O:4][H:14])([C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([H:8])([H:9])[H:10].[C:3]([O:4][H:14])[C:5]([C:6]([O:7][H:19])([H:17])[H:18])([H:15])[H:16],73.47818300438159
[C:1](=[C:2])([C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C:1](#[C:2][C:3]([C:4]([C:5]#[C:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7],17.782540141866292
[C:1](/[C:3](=[N:2]/[C:5](=[O:6])[N:7]([H:13])[H:14])[N:4]([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1](/[N:2]=[C:3](\[N:4]([H:11])[H:12])[C:5](=[O:6])[N:7]([H:13])[H:14])([H:8])([H:9])[H:10],118.12420541126579
[C:1]([C:2]([H:9])([H:10])[H:11])([H:6])([H:7])[H:8].[C:3]([C:4]([H:12])([H:13])[H:14])[O:5][H:15]>>[C:1]([C:2]([C@@:3]([C:4]([H:12])([H:13])[H:14])([O:5][H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8],14.614575878161908
[C:1]1([H:7])([H:9])[C:2]([H:10])([H:11])[C:3]1=[C:4]=[C:5]([C:6]([H:14])([H:15])[H:16])[H:12].[H:8][H:13]>>[C:1]([C:2]([C:3]#[C:4][C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],45.0418909290046
[C:1]([C:2]([N:3]1[C:4]([H:13])=[C:5]1[H:14])([H:11])[H:12])([H:8])([H:9])[H:10].[N:6]#[C:7][H:15]>>[C:1]([C:2]([n:3]1[c:4]([H:13])[c:5]([H:14])[n:6][c:7]1[H:15])([H:11])[H:12])([H:8])([H:9])[H:10],18.45482777046921
[C:1]([O:2][C:3]([C:4]([H:11])([H:12])[H:13])([C:5]([H:14])([H:15])[H:16])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[H:12].[O:2]=[C:3]([C:4]([C:5]([H:14])([H:15])[H:16])([H:11])[H:13])[C:6]#[N:7],81.14256796916
[O:1]=[c:2]1[c:3]([H:8])[c:4]([H:9])[n:5]([H:10])[c:6]([H:11])[n:7]1>>[O:1]=[C:6]([N:7]=[C:2]=[C:3]([C:4](=[N:5][H:10])[H:9])[H:8])[H:11],108.41792143706101
[C-:3]#[O+:4].[C:1](=[C:2]([H:10])[H:11])([H:8])[H:9].[C:5](=[O:6])([H:7])[H:12]>>[C:1]([C:2]([C:3](=[O:4])[C:5](=[O:6])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],34.4992327782892
[C:1]([C@@:2]([O:3][H:11])([C:4]([N:5]([H:14])[H:15])([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10]>>[C:1]([N:7]=[C:6]=[C:2]([O:3][H:11])[C:4]([N:5]([H:14])[H:15])([H:12])[H:13])([H:8])([H:9])[H:10],74.980066042945
[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10]>>[C-:4]#[O+:5].[C:1]([C:2](=[C:3]([H:12])[H:13])[C:6]#[N:7])([H:8])([H:9])[H:10].[H:11][H:14],56.36512143859299
[N:1]1([H:7])[C@@:2]2([H:8])[C@:3]3([H:9])[N:4]([H:10])[C@@:5]2([H:11])[C@:6]13[H:12]>>[N+:1]12([H:7])[C@:2](/[C:3](=[N:4]/[H:10])[H:9])([H:8])[C@@:5]1([H:11])[C-:6]2[H:12],49.9601728486809
[C:1](=[N:2][H:10])([H:8])[H:9].[C:3](=[O:4])=[C:5]([O:6][H:7])[H:11]>>[C:1]([N:2]([C:3](=[O:4])[C:5](=[O:6])[H:11])[H:10])([H:7])([H:8])[H:9],22.70565432326879
[O:1]([C:2]([C:3]#[C:4][C:5]([O:6][H:12])([H:10])[H:11])([H:8])[H:9])[H:7]>>[C+:2](=[C:3]=[C-:4][C:5]([O:6][H:12])([H:10])[H:11])[H:9].[O:1]([H:7])[H:8],60.5292231351232
[O:1]=[C:2]1[C:3]([H:7])([H:8])[C:4]([H:9])([H:10])[O:5][C:6]1([H:11])[H:12]>>[O:1]([C:2]([C:3]([C:4](=[O:5])[H:9])([H:7])[H:8])=[C:6]([H:11])[H:12])[H:10],78.9250686469928
[O:1]([C:2]([C@@:3]([C:4](=[O:5])[H:12])([C:6]#[C:7][H:13])[H:11])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([H:11])[C:4]([H:12])=[C:6]1[C:7](=[O:5])[H:13])([H:9])[H:10])[H:8],81.3961291573039
[C:1]([O+:2]=[C:3]=[C:5]=[N-:6])([H:7])([H:8])[H:9].[C:4]([H:10])([H:11])([H:12])[H:13]>>[C:1]([O:2][C@@:3]([C:4]([H:11])([H:12])[H:13])([C:5]#[N:6])[H:10])([H:7])([H:8])[H:9],17.0154644844308
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:6](=[C:5])[H:16])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[C:5]#[C:6][H:16])([H:7])([H:8])[H:9],16.73181484898369
[O:1]([C:2]([C:3]([O:4][C:5]([C:6]#[C:7][H:15])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C:3]([O:4][C:7](=[C:6]=[C:5]([H:13])[H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8],58.1569426453053
[C:1]([C@@:2]1([H:11])[C:3]([H:12])([H:13])[O:4][C@:5]([C:6]([H:15])([H:16])[H:17])([H:14])[O:7]1)([H:8])([H:9])[H:10]>>[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])([H:8])([H:9])[H:10].[O:4]([C:5](=[O:7])[H:14])[C:6]([H:15])([H:16])[H:17],79.53799875400041
